US07923568B2
A stirred suspension of 2-benzyl-7,8-dihydrocyclopenta[e]indazol-6(2H)-one (10.3 g, 39.3 mmol) in 180 mL of THF was cooled to −70° C. and a 1.0M solution of lithium bis(trimethylsilyl)amide in THF (86 mL, 86 mmol) was added dropwise during 20 minutes. The reaction mixture was allowed to warm to −33° C. during approximately 1 hour giving a reddish brown solution. The solution was re-cooled to −65° C. and ethyl cyanoformate (5.9 mL, 60 mmol) was added during 1 minute. The reaction mixture was allowed to warm to 15° C. during 2¾ hours and was then partitioned between ethyl acetate and 1N aqueous HCl. The organic phase was washed successively with water, saturated NaHCO3 and brine. After drying over Na2SO4 the solution was filtered through a short column of silica gel and evaporated under vacuum to give ethyl 2-benzyl-6-oxo-2,6,7,8-tetrahydrocyclopenta[e]indazole-7-carboxylate as a brown oil.

reactant | 2-benzyl-7,8-dihydrocyclopenta[e]indazol-6(2H)-one | 39.3 mmol, 10.3 g | C(C1=CC=CC=C1)N1N=C2C=CC3=C(C2=C1)CCC3=O | C17H14N2O
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl cyanoformate | 60 mmol, 5.9 mL | C(#N)C(=O)OCC | C4H5NO2
solvent | THF | 180 mL | C1CCOC1 | C4H8O
solvent | THF | 86 mmol, 86 mL | C1CCOC1 | C4H8O
product | ethyl 2-benzyl-6-oxo-2,6,7,8-tetrahydrocyclopenta[e]indazole-7-carboxylate | C(C1=CC=CC=C1)N1N=C2C=CC3=C(C2=C1)CC(C3=O)C(=O)OCC | C20H18N2O3
